US06057431
4.0 g (60%, 0.1 mol) of sodium hydride were washed in hexane and mixed with 30 ml of dry DMSO, and the resulting admixture was stirred at 60° C. on an oil bath for 1 hour under a nitrogen gas flow. The mixture was stirred at room temperature, and dry DMSO containing 12.6 g (0.1 mol) of sodium 4-hydroxybutyrate (100 ml) was added. After stirring at room temperature for 2 hours, the reaction solution was cooled on an ice bath, 0.2 mol of benzyl bromide was added, and the reaction was carried out at room temperature for 2 hours. After solidification, 0.5 L of ether was added, the admixture was filtered, the resulting residue was washed with ether (300 ml×3), and the filtrate was concentrated under vacuum. The resulting residue was mixed with 100 ml of methanol, 100 ml of 8% sodium hydroxide were added, and the admixture was stirred at 60° C. for 15 hours. After drying under vacuum, the resulting concentrated residue was washed with ether (200 ml×2), and the ether layer was extracted with 1 N sodium hydroxide (50 ml). All aqueous layers were combined, neutralized with concentrated hydrochloric acid (pH<4) and then extracted with ether (100 ml×5). The ether layer was extracted with 2 N sodium hydroxide (50 ml×3), all water layers were neutralized with concentrated hydrochloric acid (pH<4), and further extracted with ether. The resulting product was washed with an aqueous saturated sodium chloride solution, dried on magnesium sulphate, and then concentrated under vacuum. 9.42 g of 4-benzyloxybutyric acid was obtained as a pale yellow oil.

reactant | sodium hydride | 0.1 mol, 4.0 g | [H-].[Na+]
reactant | DMSO | 30 ml | CS(=O)C | C2H6OS
reactant | DMSO | 0.1 mol, 12.6 g | CS(=O)C | C2H6OS
reactant | sodium 4-hydroxybutyrate | 100 ml | OCCCC(=O)[O-].[Na+]
reactant | benzyl bromide | 0.2 mol | C(C1=CC=CC=C1)Br | C7H7Br
solvent | hexane | CCCCCC | C6H14
solvent | ether | 0.5 L | CCOCC | C4H10O
product | 4-benzyloxybutyric acid | 9.42 g, Yield: 49.5% | C(C1=CC=CC=C1)OCCCC(=O)O | C11H14O3
